US04147788
1-Difluoromethyl-6,7-methylenedioxy-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 27.5 g of 1-difluoromethyl-6,7-methylenedioxy-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester and 600 ml of 6N hydrochloric acid is heated under reflux for 1.5 hours. The mixture is diluted with 1 liter of water, cooled, and filtered. The solid product is triturated with cold ethanol and filtered to give 24.5 g of the desired product, m.p. 327°-8° C. (dec).

reactant | 1-difluoromethyl-6,7-methylenedioxy-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester | 27.5 g | FC(N1C=C(C(C2=CC3=C(C=C12)OCO3)=O)C(=O)OCC)F | C14H11F2NO5
reactant | hydrochloric acid | 6N, 600 ml | Cl | ClH
solvent | water | 1 liter | O | H2O
product | 1-Difluoromethyl-6,7-methylenedioxy-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 24.5 g | FC(N1C=C(C(C2=CC3=C(C=C12)OCO3)=O)C(=O)O)F | C12H7F2NO5
